### PR TITLE
[Merged by Bors] - feat: missing basic analysis and topology API

### PR DESCRIPTION
**Pull request by sgouezel**
Basic lemmas cherry picked from #34055.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Ultrafilter.lean [hunk 1]
```diff
@@ -54,3 +54,11 @@ theorem continuousAt_iff_ultrafilter :
 theorem continuous_iff_ultrafilter :
     Continuous f ↔ ∀ (x) (g : Ultrafilter X), ↑g ≤ 𝓝 x → Tendsto f g (𝓝 (f x)) := by
   simp only [continuous_iff_continuousAt, continuousAt_iff_ultrafilter]
+
+theorem IsClosed.mem_of_mapClusterPt
+    {l : X} {s : Set X} {f : α → X} {b : Filter α} (hs : IsClosed s)
+    (hf : MapClusterPt l b f) (h : ∀ᶠ (x : α) in b, f x ∈ s) : l ∈ s := by
```
Comment (plp127) [inline Mathlib/Topology/Ultrafilter.lean]: Surely you don't need ultrafilters for this, and can conclude it from `Filter.Frequently.mem_of_closed`

Comment (sgouezel) [reply Mathlib/Topology/Ultrafilter.lean]: Indeed! I have switched to a version without ultrafilters (and moved it to a more proper place).

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 2]
```diff
@@ -495,6 +495,11 @@ theorem norm_mul_le_of_le' (h₁ : ‖a₁‖ ≤ r₁) (h₂ : ‖a₂‖ ≤ r
 @[to_additive norm_add₃_le /-- **Triangle inequality** for the norm. -/]
 lemma norm_mul₃_le' : ‖a * b * c‖ ≤ ‖a‖ + ‖b‖ + ‖c‖ := norm_mul_le_of_le' (norm_mul_le' _ _) le_rfl
 
+/-- **Triangle inequality** for the norm. -/
+@[to_additive norm_add₄_le /-- **Triangle inequality** for the norm. -/]
+lemma norm_mul₄_le' : ‖a * b * c * d‖ ≤ ‖a‖ + ‖b‖ + ‖c‖ + ‖d‖ :=
+    norm_mul_le_of_le' norm_mul₃_le' le_rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Group/Basic.lean]:
```suggestion
  norm_mul_le_of_le' norm_mul₃_le' le_rfl
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
